US08133743B2
Preparation of Phenobarbital Antibody Microparticles
Ten percent (w/v) latex microparticles (number of carboxy groups approx. 0.21 mmol/g latex, mean microparticle diameter 0.2 μm, Seradyne Inc., Indianapolis, Ind.) were diluted to one percent (w/v) concentration with 10 mM 2-morpholino-ethanesulfonic acid (MES), pH 5.3 containing 0.09% (w/v) ascorbic acid sodium salt. The desired volume of 1% microparticles was measured out and the microparticles activated by the addition of N-hydroxysulfosuccinimide (sulfo-NHS) followed by the addition of N-ethyl-N′-(3-dimethyl-aminopropyl)carbodiimide hydrochloride (EDC.HCl). Both sulfo-NHS and EDC were added at a ratio of 10 moles of each reagent per mole of carboxylates present on the surface of the microparticles. After stirring for about 1 hour at room temperature, the microparticles were washed, concentrated and resuspended to a concentration of 2% by exchange of buffers into 50 mM 3-morpholinopropanesulfonic acid (MOPS), pH 5.7, containing 0.09% (w/v) of ascorbic acid sodium salt, in a hollow-fiber system. A solution of phenobarbital monoclonal antibodies (MAK<Pheba>M-29D4-IgG) in 50 mM MOPS buffer, pH 5.7, also containing 0.09% (w/v) of ascorbic acid sodium salt and 10 g/L of BSA, was added to the resuspended microparticles such that there was 0.2 mg antibody/mL of microparticle solution. The antibody-latex mixture was stirred for about 1 hour at 23-27° C. A solution of 90 mg/mL of BSA in 50 mM MOPS, pH 5.7, containing 0.09% (w/v) of ascorbic acid sodium salt, was then added to the latex mixture (1.125 mg BSA/mg latex). After stirring for 0.5-1.5 hours at 23-27° C., a solution of 11% (w/w) 2-(2-amino-ethoxy)ethanol (AEO) in water adjusted to pH 9 with HCl, was added to the latex mixture. After stirring overnight at 40-45° C., the microparticles were washed with and exchanged into storage buffer (50 mM MOPS, pH 7.4, 0.1% (w/v) BSA, 0.09% sodium azide) to a final concentration of 1% latex microparticles (w/v) which was then stored at 2-8° C. until used.

reactant | ascorbic acid sodium salt | [Na].O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO
reactant | N-hydroxysulfosuccinimide | ON1C(C(CC1=O)S(=O)(=O)O)=O | C4H5NO6S
reactant | sulfo-NHS | C1C(C(=O)N(C1=O)O)S(=O)(=O)[O-].[Na+]
reactant | EDC
solvent | 2-morpholino-ethanesulfonic acid | 10 mM | O1CCN(CC1)CCS(=O)(=O)O | C6H13NO4S
product | Phenobarbital | CCC1(C(=O)NC(=O)NC1=O)C=2C=CC=CC2 | C12H12N2O3
